US06599902B2
(S)-2-cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester (907 mg, 3.14 mmol) was hydrogenated using Pd/C (5%, 61 mg) to give (S)-pyrrolidine-2-carboxylic acid cyclopropylamide.

reactant | (S)-2-cyclopropylcarbamoyl-pyrrolidine-1-carboxylic acid benzyl ester | 3.14 mmol, 907 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC1CC1)=O | C16H20N2O3
catalyst | Pd/C | 61 mg | [Pd] | Pd
product | (S)-pyrrolidine-2-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)[C@H]1NCCC1 | C8H14N2O
